US09238639B2
F) Methyl(4,7-dichloro-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of tri-n-butylphosphine (0.193 mL), methyl(4,7-dichloro-6-hydroxy-1-benzothiophen-3-yl)acetate (150 mg), (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol (102 mg) and THF (5.0 mL) was added ADDP (195 mg) at room temperature. The mixture was stirred at room temperature under nitrogen atmosphere overnight. The mixture was concentrated in vacuo. To the residue was added IPE and the precipitate was filtered off. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (NH, EtOAc/hexane) to give the title compound (205.9 mg). The solid was crystallized from EtOAc-hexane to give the title compound.

reactant | tri-n-butylphosphine | 0.193 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | methyl(4,7-dichloro-6-hydroxy-1-benzothiophen-3-yl)acetate | 150 mg | COC(CC1=CSC2=C1C(=CC(=C2Cl)O)Cl)=O | C11H8Cl2O3S
reactant | (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol | 102 mg | CN1N=C(C=C1CO)C(F)(F)F | C6H7F3N2O
reactant | ADDP | 195 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | Methyl(4,7-dichloro-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 205.9 mg | COC(CC1=CSC2=C1C(=CC(=C2Cl)OCC2=CC(=NN2C)C(F)(F)F)Cl)=O | C17H13Cl2F3N2O3S
